US06890942B2
3-Hydroxy-4-[5-(1-methyl-5-trifluoromethyl-1H-pyrazol-3-yl)-thiophene-2-sulfonylamino]-4-oxo-but-2-enoic acid (4-fluoro-benzyl)-methoxy-amide
2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-benzyl)-N-methoxy-acetamide was treated with 5-(1-methyl-5-trifluoromethyl-1H-pyrazol-3-yl)-thiophene-2-sulfonic acid amide as described in the preparation of compound 1 to yield the title compound. 1H NMR (500 MHz, CDCl3) δ: 3.66 (s, 3), 4.03 (s, 3), 4.76 (s, 2), 6.50 (s, 1), 6.71 (s, 1), 7.00 (m, 2), 7.20 (m, 1), 7.25 (m, 2), 7.93 (m, 1).

reactant | 2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-benzyl)-N-methoxy-acetamide | CC1(OC(C(O1)=CC(=O)N(OC)CC1=CC=C(C=C1)F)=O)C | C15H16FNO5
reactant | 5-(1-methyl-5-trifluoromethyl-1H-pyrazol-3-yl)-thiophene-2-sulfonic acid amide | CN1N=C(C=C1C(F)(F)F)C1=CC=C(S1)S(=O)(=O)N | C9H8F3N3O2S2
product | 3-Hydroxy-4-[5-(1-methyl-5-trifluoromethyl-1H-pyrazol-3-yl)-thiophene-2-sulfonylamino]-4-oxo-but-2-enoic acid (4-fluoro-benzyl)-methoxy-amide | FC1=CC=C(CN(C(C=C(C(=O)NS(=O)(=O)C=2SC(=CC2)C2=NN(C(=C2)C(F)(F)F)C)O)=O)OC)C=C1 | C21H18F4N4O6S2
